US06521607B1
To a mixture N-(3-phenoxyphenyl)-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]-amine from EX-1B (1.48 g, 0.0038 mol) and R-(+)-1,1,1-trifluoro-2,3-epoxypropane (0.64 g, 0.0057 mol) was added a suspension of ytterbium (III) trifluoro-methanesulfonate (0.23 g, 0.0004 mol) in 1.5 mL of acetonitrile. The resulting mixture was heated at 50° C. in a sealed glass tube for 1.5 h. The reaction mixture was cooled to room temperature then diluted with water and ethyl acetate and extracted. The organic layers were combined, dried over MgSO4, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with 1:4 ethyl acetate in hexane to afford 1.2 g (63%) of the desired (2R)-3-[(3-phenoxyphenyl)-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as a pure yellow oil (>96% ee by chiral HPLC analysis), which was identical in all respects to EX-2. Anal. calcd. for C24H20F7NO3: C, 57.26; H, 4.00; N, 2.78. found: C, 56.96; H, 4.35; N, 2.69. HRMS calcd.: 504.1410 [M+H]+, found: 504.1431. 1H NMR (CDCl3) δ 7.28 (m, 4H), 7.14 (t, 1H), 7.07, (m, 3H), 7.00 (s, 1H), 6.94 (d, 2H), 6.46 (dd, 1H), 6.38 (dd, 1H), 6.35 (t, 1H), 5.84 (t, 1H), 4.60 (t, 2H), 4.36 (m, 1H), 3.82 (d, 1H), 3.48 (m, 1H), 2.51 (s, 1H). 19F NMR (CDCl3) δ −79.0 (s, 3F), −88.21 (d, 2F), −137.05 (dd, 2F).

reactant | N-(3-phenoxyphenyl)-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]-amine | O(C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=CC(=CC=C1)OC(C(F)F)(F)F | C21H17F4NO2
reactant | ytterbium (III) trifluoro-methanesulfonate | 0.0004 mol, 0.23 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-3-[(3-phenoxyphenyl)-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 1.2 g, 63% | O(C1=CC=CC=C1)C=1C=C(C=CC1)N(C[C@H](C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H20F7NO3
